US05356886
(E)-9-[4-(Diisopropoxyphosphoryl)-2-(hydroxymethyl)but-3enyl]adenine
* Mixture of Azido and Tetrazolo Tautomers c) A solution of (E)-6-azido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine (320 mg, 494 μmol) and triphenylphosphine (194 mg, 741 μmol) in tetrahydrofuran (15 ml) was stirred at room temperature for 21 h. The solution was heated to 70° C. and 5M hydrochloric acid (258 μl, 1.29 mmol) added. After 2 h, the solvent was removed and the residue was dissolved in 3% methanolic hydrogen chloride (10 ml) and the solution stirred at room temperature for 2 h. The solvent was removed, the residue dissolved in water and the solution neutralised by addition of aqueous sodium bicarbonate solution. The solution was evaporated to dryness and the residue purified by column chromatography on silica gel eluting with dichloromethane-methanol (9:1, 6:1) to give the title compound as a white solid (124 mg, 63%), m.p. 130° C.; λmax (EtOH) 261 (13,074)nm; υmax (KBr) 3325, 2980, 1645, 1600, 1475, 1420, 1240 and 990 cm-1 ; δH [(CD3)2SO] 1.10 (12H, m, CH3), 3.07 (1H, m, CH), 3.50 (2H, t, J 5Hz, CH2O), 4.10 (1H, m, CH(CH3)2)), 4.27 (3H, m, CH2N and CH(CH3 )2), 4.99 (1H, t, J 5Hz, D2O exchangeable, OH), 5.59 (1H, dd, J 17 Hz and 21 Hz, PCH=CH), 6.52 (1H, ddd, J 8 Hz, 17 Hz and 22 Hz, PCH=CH), 7.16 (2H, br.s, D2O exchangeable, NH2), 8.07 (1H, s, H-2/H-8), 8.12 (1H, s, H-2/H-8); CIMS 384 (MH+) (Found: C, 48.92; H, 6.90; N, 17.58%. C16H26N5O4P.0.5 H2O requires C, 48.97; H, 6.94; N, 17.85%).

reactant | (E)-6-azido-9-[2-(t-butyldiphenylsilyloxy)methyl-4-(diisopropoxyphosphoryl)but-3-enyl]purine | 494 μmol, 320 mg | N(=[N+]=[N-])C1=C2N=CN(C2=NC=N1)CC(\C=C\P(=O)(OC(C)C)OC(C)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42N7O4PSi
reactant | triphenylphosphine | 741 μmol, 194 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 1.29 mmol, 5M, 258 μl | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (E)-9-[4-(Diisopropoxyphosphoryl)-2-(hydroxymethyl)but-3enyl]adenine | 124 mg, 63% | C(C)(C)OP(=O)(OC(C)C)/C=C/C(CN1C2=NC=NC(=C2N=C1)N)CO | C16H26N5O4P
